US09210927B2
Step 2. N-(2,2,2-Trifluoroethyl)hydrazinecarboxamide hydrochloride
To a stirred solution of tert-butyl 2-((2,2,2-trifluoroethyl)carbamoyl)hydrazinecarboxylate (1.62 g, 6.30 mmol) in anhydrous dioxane (10.0 mL) was added HCl (4M in dioxane, 2-3 mL). The reaction mixture was stirred at ambient temperature for 18 h, then heated at reflux for 2-3 h. The reaction mixture was allowed to cool to ambient temperature and then evaporated to afford the title compound as a white solid (1.33 g, 109%): 1H NMR (400 MHz, DMSO-d6) δ 10.12 (s, 3H), 9.25 (s, 1H), 7.72 (t, J=6.5 Hz, 1H), 3.91 (qd, J=9.7, 6.5 Hz, 2H); 19F NMR (376 MHz, DMSO-d6) δ −71.41; ESIMS m/z 156 ([M−H]−). This material is used without further purification.

reactant | tert-butyl 2-((2,2,2-trifluoroethyl)carbamoyl)hydrazinecarboxylate | 6.30 mmol, 1.62 g | FC(CNC(=O)NNC(=O)OC(C)(C)C)(F)F | C8H14F3N3O3
reactant | HCl | 4M, 2-3 mL | Cl | ClH
solvent | dioxane | 10.0 mL | O1CCOCC1 | C4H8O2
product | N-(2,2,2-Trifluoroethyl)hydrazinecarboxamide hydrochloride | 1.33 g, 109% | Cl.FC(CNC(=O)NN)(F)F | InChI=1S/C3H6F3N3O.ClH/c4-3(5,6)1-8-2(10)9-7;/h1,7H2,(H2,8,9,10);1H
